US06528525B1
(h) Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate
In a similar manner to that described in Reference example 3(h), a reaction was carried out using ethyl 3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate (1.16 g), which is the product of Reference example 7(g), and sodium azide (0.50 g) and the reaction mixture was treated to afford the desired compound (0.86 g) as a syrup.

reactant | ethyl 3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate | 1.16 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)CC(C(=O)OCC)(CCCC1=CC=CC=C1)C | C24H32O6S
reactant | sodium azide | 0.50 g | [N-]=[N+]=[N-].[Na+]
product | Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate | 0.86 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)(CCCC1=CC=CC=C1)C | C23H29N3O3
